US06274620B1
Preparation of 5-Bromomethyl-thiophene-2-carboxylic acid methyl ester (T-1).
5-Methyl-thiophene-2-carboxylic acid methyl ester (20.0 g, 0.13 mol) was dissolved in a suspension of N-bromosuccinimide (45.4 g, 0.26 mol) and 2,2′-aza-bis-isobutyronitrile (0.1 g, 0.61 mmol) in 1 L of carbon tetrachloride. The suspension was refluxed for 48 hours then cooled and the precipitate was filtered off. The filtrate was concentrated and the residue was purified on silica gel (100% hexanes then 9:1 Hexanes-Ethyl acetate) to provide a 26 g fraction containing mainly the di-brominated compound 5-dibromomethyl-thiophene-2-carboxylic acid methyl ester as a yellow oil and a more polar fraction (7.5 g) containing mainly compound T-1 (25% yield) as a yellow oil (70% purity).

reactant | 5-Methyl-thiophene-2-carboxylic acid methyl ester | 0.13 mol, 20.0 g | COC(=O)C=1SC(=CC1)C | C7H8O2S
reactant | N-bromosuccinimide | 0.26 mol, 45.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-dibromomethyl-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)C(Br)Br | C7H6Br2O2S
solvent | carbon tetrachloride | 1 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-thiophene-2-carboxylic acid methyl ester | 25% yield | COC(=O)C=1SC(=CC1)CBr | C7H7BrO2S
